US07459553B2
Preparation of 10-methoxycarbamazepine
To a 1 L 4-necked round bottom flask was added 10.0 g (0.045 mol) of 10-methoxyiminostilbene, 150.0 ml of dichloromethane, 37.0 g (0.57 mol) of sodium cyanate and 15.0 g (0.13 moles) of maleic acid and stirred at room temperature. The contents were heated to reflux (40-45° C.) under vigorous stirring for about 6 to about 8 hours. After completion of the reaction (detected by TLC) the reaction mass was filtered and washed with 50.0 ml dichloromethane. The dichloromethane layer was washed with water (50.0 ml×2) and the layers were separated.

reactant | 10-methoxyiminostilbene | 0.045 mol, 10.0 g | COC1=CC2=CC=CC=C2NC3=CC=CC=C31 | C15H13NO
reactant | sodium cyanate | 0.57 mol, 37.0 g | [O-]C#N.[Na+]
reactant | maleic acid | 0.13 moles, 15.0 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | dichloromethane | 150.0 ml | ClCCl | CH2Cl2
product | 10-methoxycarbamazepine | COC1=CC2=CC=CC=C2N(C3=CC=CC=C31)C(=O)N | C16H14N2O2
